US08110579B2
4.3. Methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-hydroxypyridine-2-carboxylate
Stir a solution of 37 g (163 mmol) of methyl 6-bromo-5-hydroxy-2-pyridine carboxylate and 51 g (196 mmol) of [3-(benzyloxy)-4-chlorophenyl]boronic acid in 300 mL of anhydrous DMF for 15 min while bubbling with argon, then add 63.8 g (196 mmol) of anhydrous caesium carbonate and 5 g (4.33 mmol) of Pd(PPh3)4. Stir the reaction mixture for 10 h at 90° C. under argon, cool to RT, then distribute in 1 L of ether/EtOAc 1:1 mixture and 1 L of a 0.5N aqueous HCl solution. Extract the aqueous phase again with 500 mL of EtOAc/ether 1:1 mixture. Combine the organic phases and wash with 4×500 mL of water. After drying over Na2SO4 and concentration under reduced pressure, take up the precipitate with 500 mL of a 7:3 mixture of pentane/DCM, filter and wash with pentane. We thus obtain 32 g of methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-hydroxypyridine-2-carboxylate in the form of yellow ochre powder.

reactant | methyl 6-bromo-5-hydroxy-2-pyridine carboxylate | 163 mmol, 37 g | BrC1=C(C=CC(=N1)C(=O)OC)O | C7H6BrNO3
reactant | [3-(benzyloxy)-4-chlorophenyl]boronic acid | 196 mmol, 51 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)B(O)O | C13H12BClO3
reactant | caesium carbonate | 196 mmol, 63.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 0.5N | Cl | ClH
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | ether EtOAc | 1 L | CCOCC.CCOC(=O)C
catalyst | Pd(PPh3)4 | 4.33 mmol, 5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-hydroxypyridine-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OC)O | C20H16ClNO4
